US06498172B1
(3-((4-Butyl-benzylamino)-methyl)-phenyl)-acetic acid methyl ester.
A solution of 4-butyl-benzylamine (from Preparation 15, 0.918 g, 6 mmol) in MeOH was added to 4N HCl in dioxane (0.75 mL, 3 mmol) followed by addition of (3-formyl-phenyl)-acetic acid methyl ester (from Preparation 13, 0.534 g, 3.0 mmol). NaCNBH3 (0.194 mL, 3 mmol) was added and the reaction was stirred at room temperature overnight. The mixture was diluted with EtOAc and 2N NaOH was added. The organic solution was dried over MgSO4, filtered, and concentrated in vacuo. The product was purified via flash chromatography (50% hexanes, 50% EtOAc, 0.1% Et3N) to afford the title compound of Step A. 1H NMR (400 MHz, CDCl3) δ 7.08-7.38 (m, 8H), 3.75 (s, 2H), 3.73 (s, 2H), 3.70 (s, 3H), 3.62 (s, 2H), 2.61 (t, 2H), 1.58 (m, 2H), 1.37 (m, 2H), 0.92 (t, 3H); MS 326 (M+1).

reactant | 4-butyl-benzylamine | 6 mmol, 0.918 g | C(CCC)C1=CC=C(CN)C=C1 | C11H17N
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 3 mmol, 0.75 mL | O1CCOCC1 | C4H8O2
reactant | (3-formyl-phenyl)-acetic acid methyl ester | 3.0 mmol, 0.534 g | COC(CC1=CC(=CC=C1)C=O)=O | C10H10O3
reactant | NaCNBH3 | 3 mmol, 0.194 mL | [BH3-]C#N.[Na+]
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaOH | 2N | [OH-].[Na+]
product | (3-((4-Butyl-benzylamino)-methyl)-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)CNCC1=CC=C(C=C1)CCCC)=O | C21H27NO2
